US06645968B2
1-fluoro-3-isothiocyanatobenzene
A solution of thiophosgene and 3-fluoroaniline were processed as described in Example 55A to provide the desired product.

reactant | thiophosgene | C(=S)(Cl)Cl | CCl2S
reactant | 3-fluoroaniline | FC=1C=C(N)C=CC1 | C6H6FN
product | 1-fluoro-3-isothiocyanatobenzene | FC1=CC(=CC=C1)N=C=S | C7H4FNS
